US07344696B2
Preparation of hexamethylene-bis(trimethylammonium)bromide
37.38 g of 1,6-dibromohexane (purity=96%) and 82.35 g of trimethylamine solution (31-35% by weight in ethanol) are added to a 500 ml flask, and the necessary ethanol is immediately added for obtaining a suitable mixture of the different products that have been added while they are homogenised by magnetic stirring. The resulting mixture is kept at room temperature with constant stirring for 48 hours, and the solid that is formed is recovered by means of filtration and is thoroughly washed with ethyl acetate and diethyl ether. The white solid obtained is dried at room temperature for 12 hours.

reactant | 1,6-dibromohexane | 37.38 g | BrCCCCCCBr | C6H12Br2
reactant | trimethylamine | 82.35 g | CN(C)C | C3H9N
solvent | ethanol | C(C)O | C2H6O
product | hexamethylene-bis(trimethylammonium)bromide | [Br-].C[N+](CCCCCC[N+](C)(C)C)(C)C.[Br-] | InChI=1S/C12H30N2.2BrH/c1-13(2,3)11-9-7-8-10-12-14(4,5)6;;/h7-12H2,1-6H3;2*1H/q+2;;/p-2
